US07432293B2
b) 6-Dimethylamino-N-hydroxy-nicotinamidine
In a 100 ml round flask, 4.7 g (31.9 mmol) of 6dimethylamino-nicotinonitrile and 1.88 ml (31.9 mmol) of aqueous hydroxylamine (50%) are dissolved in 25 ml of ethanol. This mixture is reacted at 90° C. for 6 h. Then another 0.45 ml (8.1 mmol, 0.25 eq.) of hydroxylamine-solution is added. After 11 h at 90° C., the mixture is cooled and the solvent removed in vacuo. This yields the title compound as light yellow solid, which is used for the next step without purification. Mass spectrum: m/z (M+H)+: 181.0

reactant | 6dimethylamino-nicotinonitrile | 31.9 mmol, 4.7 g | CN(C1=NC=C(C#N)C=C1)C | C8H9N3
reactant | hydroxylamine | 31.9 mmol, 1.88 ml | NO | H3NO
reactant | hydroxylamine | 8.1 mmol, 0.45 ml, 0.25 eq. | NO | H3NO
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 6-Dimethylamino-N-hydroxy-nicotinamidine | CN(C1=NC=C(C(=N)NO)C=C1)C | C8H12N4O
